### PR TITLE
[Merged by Bors] - feat: make `TFAE.out` 1-indexed

### PR DESCRIPTION
**Pull request by thorimur**
This PR makes `TFAE.out` take in 1-indexed arguments instead of 0-indexed arguments in order to match the convention of the `tfae` tactics.

Note: the indices must be provably greater than 0 in order to avoid confusing behavior due to `TFAE.out 0 _` succeeding.

Ideally, this is a stopgap measure to achieve consistency before moving to a proper elaborator.

This is discussed further [on zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Fix.20TFAE.20numbering/with/614435379).

Disclosure: this refactor was not performed directly with Claude, but was performed using an `awk` program written by Claude.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: MathlibTest/Tactic/TFAE.lean [hunk 1]
```diff
@@ -133,7 +133,7 @@ example : TFAE [P, Q] := by
   tfae_have 2 ← 1 := fun p => ?Qgoal
   case Qgoal => exact pq p
   refine ?a
-  fail_if_success (tfae_have 1 ← 2 := ((?a).out 1 2 sorry sorry).mpr)
+  fail_if_success (tfae_have 1 ← 2 := ((?a).out 2 3 sorry sorry).mpr)
```
Comment (eric-wieser) [inline MathlibTest/Tactic/TFAE.lean:136]: I think perhaps these numbers were correct in the first place?
